US05792783
4-(Piperidin-1-yl)benzaldehyde.
To a solution of 2.3 mL (mmoles) of N,N-dimethylformamide in 10 mL of 1,2-dichloroethane was added dropwise 2.8 mL (30 mmoles) of phosphorus oxychloride at 0°C. The ice-bath was removed and the reaction mixture was stirred for 15 min. 1-Phenylpiperidine (3.2 mL, 20 mmoles) was added to the above solution portionwise and the reaction mixture was refluxed overnight. The reaction mixture was poured into ice-cold 2N sodium hydroxide solution and stirred at room temperature for 1 h. The organic layer was separated and the aqueous layer was extracted with 2×20 mL of ethyl acetate. The combined organic layer was washed with brine until pH=7, dried over anhydrous sodium sulfate and evaporated. The residue was separated on a silica gel column eluting with ethyl acetate and hexane to afford 1.5 g (40%) of the title compound as a white solid.

reactant | N,N-dimethylformamide | 2.3 mL | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 30 mmoles, 2.8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-Phenylpiperidine | 20 mmoles, 3.2 mL | C1(=CC=CC=C1)N1CCCCC1 | C11H15N
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 4-(Piperidin-1-yl)benzaldehyde | 1.5 g, 40% | N1(CCCCC1)C1=CC=C(C=O)C=C1 | C12H15NO
